US07939528B2
To a solution of 4,4-dimethylcyclohexanone (3.0 g, 0.024 mole) and hydroxylamine hydrochloride (2.2 g, 0.031 mole) in a mixture of ethanol (15 mL) and water (20 mL) at room temperature was added dropwise a solution of sodium carbonate (3.3 g, 0.031 mole) in water (10 mL). The mixture was heated at reflux for 3 hours, cooled to room temperature and concentrated in vacuo to remove the ethanol. The aqueous residue was extracted several times with ethyl acetate. The organic extracts were dried (MgSO4), filtered and concentrated in vacuo to give 3.0 g (88%) of the desired 4,4-dimethylcyclohexanone oxime as a white solid. This was used without further purification.

reactant | 4,4-dimethylcyclohexanone | 0.024 mole, 3.0 g | CC1(CCC(CC1)=O)C | C8H14O
reactant | hydroxylamine hydrochloride | 0.031 mole, 2.2 g | Cl.NO
reactant | sodium carbonate | 0.031 mole, 3.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 4,4-dimethylcyclohexanone oxime | 3.0 g, 88% | CC1(CCC(CC1)=NO)C | C8H15NO
